US06835732B2
N-[7-(2-Amino-thiazol-4-yl)-4-methoxy-benzothiazol-2-yl]-4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzamide
g of 4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-N-{4-methoxy-7-[2-(trityl-amino)-thiazol-4-yl]-benzothiazol-2-yl}-benzamide (0.00014 Mol) were treated with cc HCl (0.03 ml) in MeOH (1 ml) for 1 h at reflux. After evaporation of the solvent the residue was taken up in water (10 ml), treated with sat. NaHCO3 (10 ml) and extracted 4× with ethyl acetate. The combined organic phases were dried over Na2SO4, filtered and concentrated. The residue was subjected to column chromatography (silicagel, ethyl acetate, CH2Cl2/MeOH 19:1 and 9:1). The title compound was obtained as a white solid (53%); F.p.: 199-206° C.

reactant | 4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-N-{4-methoxy-7-[2-(trityl-amino)-thiazol-4-yl]-benzothiazol-2-yl}-benzamide | 0.00014 Mol | COCCN(C)CC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C=3N=C(SC3)NC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)OC)C=C1 | C42H39N5O3S2
reactant | HCl | 0.03 ml | Cl | ClH
solvent | MeOH | 1 ml | CO | CH4O
product | N-[7-(2-Amino-thiazol-4-yl)-4-methoxy-benzothiazol-2-yl]-4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzamide | NC=1SC=C(N1)C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)CN(C)CCOC)=O)OC | C23H25N5O3S2
